Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute kidney injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt presents to OSH with severe ___  bilateral flank pain that 
started on ___, the day before presentation. Pain worsened 
throughout the night, interfering with his sleep prompting him 
to go to the ED on ___. Pt has been in his usual state of 
health until about ___ wks ago he experienced an URI with sore 
throat and general malaise. However during this time, he went 
about his usual activities. On ___, he noticed pressure-like 
epigastric abdominal pain and associated loss of appetite, 
myalgias, and overall general malaise with fever up to 100.4. 
Starting about ___ he started noticing that his urine was 
frothy but not discolored and on ___ he developed acute 
severe ___ bilateral flank pain, interfering with his sleep on 
___ night. 
He decided to present to the ___ on ___ where initial 
vitals were: 98.1 65 140/90 16 100% RA; Exam notable for 
bilateral CVA tenderness, tender epigastrium ; Labs notable for 
OSH Cr ___ 10AM: 2.6; Imaging notable for echogenic kidneys 
without obstruction/stone. Patient was given: tramadol at the 
OSH. Decision was made to transfer to ___ for management of 
new ___. 
 
Past Medical History:
ADHD
 
Social History:
___
Family History:
No family history of renal disease or kidney stones 
Father with HLD. 
Mother and siblings have no known medical problems.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=======================
Vital Signs: 99.5 147/91 68 16 99%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx with edematous right 
tonsil, no exudate, EOMI, PERRL, neck supple, JVP not elevated, 
no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft,tender to palpation in epigastrium, non-distended, 
bowel sounds present, no rebound or guarding  
GU: No foley  
Back: ___ CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No rash. Abrasion at top of right foot.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

DISCHARGE PHYSICAL EXAM:
========================
Vitals: T: 98.9 BP: 130s/80s P:50s-60s R:16 O2: 97RA.
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, right sided peritonsilar erythema, 
PERRL
Neck: supple, JVP not elevated, no LAD . 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: Bilateral CVA tenderness. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  No rash. 
Neuro:  Neurologically intact. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:45PM BLOOD WBC-8.6# RBC-4.37* Hgb-13.0* Hct-39.9* 
MCV-91 MCH-29.7 MCHC-32.6 RDW-12.0 RDWSD-40.5 Plt ___
___ 09:45PM BLOOD Neuts-72.2* Lymphs-13.0* Monos-13.5* 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-6.20*# AbsLymp-1.12* 
AbsMono-1.16* AbsEos-0.05 AbsBaso-0.02
___ 09:45PM BLOOD ___ PTT-28.3 ___
___ 09:45PM BLOOD Glucose-104* UreaN-29* Creat-3.4*# Na-134 
K-4.1 Cl-98 HCO3-21* AnGap-19
___ 09:45PM BLOOD ALT-28 AST-67* LD(LDH)-391* CK(CPK)-1647* 
AlkPhos-62 TotBili-0.8
___ 09:45PM BLOOD TotProt-6.7 Albumin-3.8 Globuln-2.9 
Calcium-7.9* Phos-5.8* Mg-3.2*
___ 09:45PM BLOOD Hapto-103
___ 02:16AM BLOOD %HbA1c-5.4 eAG-108
___ 07:37AM BLOOD Triglyc-168* HDL-37 CHOL/HD-4.0 
LDLcalc-78
___ 12:00AM BLOOD ANCA-NEGATIVE B
___ 09:45PM BLOOD C3-91 C4-23
___ 07:37AM BLOOD ASA-NEG Acetmnp-5* Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___: ANTI-GBM: Negative
___: PEP normal
___ 09:45PM URINE Color-Straw Appear-Clear Sp ___
___ 09:45PM URINE Blood-TR Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:45PM URINE RBC-1 WBC-3 Bacteri-FEW Yeast-NONE Epi-0
___ 09:45PM URINE Hours-RANDOM Creat-41 Na-<20 TotProt-99 
Prot/Cr-2.4* Albumin-64.2 Alb/Cre-1565.9*
___ 09:45AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-POS* mthdone-NEG

MICRO LABS:
===========
Urine culture (___): Negative
ASO antibody (___): Negative
Strep pharyngitis swab (___): Negative

IMAGING:
========
CXR (___): No previous images.  The cardiac silhouette is 
within normal limits and there
is no vascular congestion, pleural effusion, or acute focal 
pneumonia.

DISCHARGE LABS:
===============
___ 07:50AM BLOOD WBC-5.7 RBC-4.18* Hgb-12.6* Hct-38.1* 
MCV-91 MCH-30.1 MCHC-33.1 RDW-12.4 RDWSD-41.1 Plt ___
___ 07:50AM BLOOD Glucose-109* UreaN-22* Creat-2.8* Na-143 
K-4.4 Cl-109* HCO3-21* AnGap-17
 
Brief Hospital Course:
This is a ___ year old male without known medical problems who 
presented with several days of flank pain and frothy urine, 
found to have ___ of unclear etiology, spontaneously improving, 
seen by nephrology who recommended close outpatient follow-up 

Acute Renal Failure / Flank Pain / Rhabdomyolysis - Patient 
presented with new onset ___ with elevated creatinine (peak 3.7) 
and proteinuria in setting of recent URI, 
high intensity work-out training and use of online workout 
supplements.  His labs were remarkable for elevated Cr to 3.7 
and Prot/Cr of 2.4, Hyperphosphatemia, non-gap acidosis with 
elevated LDH, AST, and CK to 1600s. There were no casts seen in 
the urine, nor growth on urine culture. Imaging not concerning 
for obstruction.  Nephrology was consulted for consideration of 
a biopsy and additional workup.  He remained non-oliguric, with 
a normal ANCA, C3/C4, SPEP, anti-GBM, and ASO. He was given IV 
volume resuscitation and monitored, with subsequent improvement 
in Cr and CK.  Unclear if this was rhabdomyolysis given no 
pigment in urine and patient denying any tea-colored urine.  
Creatinine improved to 2.8--based on this improvement in kidney 
function, nephrology suspected resolving ATN vs AIN, thought 
renal biopsy was not indicated and recommended close outpatient 
follow-up 

#Bilateral flank pain: He originally presented with bilateral 
flank pain. His CT did not show evidence of stones or vascular 
injury. It was felt to potential relate to above possible AIN.  
His pain was originally treated with oxycodone 2.5-5 mg and 
tylenol. His pain improved on the day of discharge and he no 
longer required any opioids.

#ADHD: In the setting of rhabdomyolysis, his home ritalin was 
held.

TRANSITIONAL ISSUES:
====================
-Will follow-up with PCP and nephrologist
-___ on Tylenol for pain
-Will get creatinine checked on ___. Cr on discharge 
was 2.8.
-He was told to refrain from intense exercise, supplements, and 
NSAIDs for now. He will follow-up with PCP and nephrology 
regarding this.
-Code status: Full
-Contact: ___ (mother) ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 20 mg oral BID 
2. creatinine (bulk) unknown strength miscellaneous 4X/WEEK 
after workouts  
3. Cialis (tadalafil) ___ mg oral DAILY as needed 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
Take every 8 hours as needed. Do not exceed 4000mg per day. 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*2 
2.  Cialis (tadalafil) ___ mg oral DAILY as needed  
3.  dextroamphetamine-amphetamine 20 mg oral BID  
4. HELD- creatinine (bulk) unknown strength miscellaneous 
4X/WEEK after workouts   This medication was held. Do not 
restart creatinine (bulk) until given the okay from your PCP or 
nephrologist
5.Outpatient Lab Work
N17.9. chem-7 (Na/K/Cl/CO2/BUN/Cr/Glu)
Dr. ___ 
___: ___
Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Renal Failure
Rhabdomyolysis
Attention-deficit disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were admitted for acute kidney failure. We do not have a 
good explanation for why this happened, but it may have been 
from over-exerting yourself. Your electrolytes and kidney 
function were monitored and you were given fluids. Your kidney 
function improved. Please refrain from taking any supplements, 
any pain killers other than Tylenol, or engaging in 
high-intensity work out until your nephrologist says it is okay. 
You were not started on any new medications. Please follow-up 
with your primary care physician as well as a nephrologist 
(kidney doctor) below. The kidney doctor ___ call you to try to 
reschedule this for a closer date. Also, get labs drawn at 
___ on ___.

It was a pleasure caring for you,

-Your ___ care team
 
Followup Instructions:
___